US09120777B2
A) Methyl 2-(benzyloxy)-4-cyclobutylbenzoate
Iodine (40 mg) and 1,2-dibromoethane (0.5 mL) were added to a mixture of magnesium (11.8 g) and anhydrous diethyl ether (250 mL), then bromocyclobutane (44.0 g) was slowly added thereto, and the mixture was stirred at 40C for 2 hours. A THF (450 mL) solution of zinc chloride (54 g) prepared at 160 C under high vacuum was added to the reaction mixture at 0 C, and the mixture was stirred at the same temperature as above for 1 hour. A mixture of methyl 2-(benzyloxy)-4-iodobenzoate (20 g), tris(dibenzylideneacetone)dipalladium(0) (4.97 g), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (3.14 g), and THF (500 mL) was deaerated in an argon stream. The zinc reagent (350 mL) prepared above was added thereto, and the mixture was stirred overnight at 60 C. The reaction mixture was filtered through celite. The solvent was concentrated under reduced pressure. Water was added to the obtained residue, followed by extraction with ethyl acetate three times. Combined organic layers were washed with water and dried over anhydrous sodium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (9.5 g).

reactant | 1,2-dibromoethane | 0.5 mL | BrCCBr | C2H4Br2
reactant | magnesium | 11.8 g | [Mg] | Mg
reactant | bromocyclobutane | 44.0 g | BrC1CCC1 | C4H7Br
reactant | methyl 2-(benzyloxy)-4-iodobenzoate | 20 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC(=C1)I | C15H13IO3
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 3.14 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | zinc chloride | 54 g | [Cl-].[Zn+2].[Cl-]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 4.97 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | zinc | 350 mL | [Zn] | Zn
catalyst | Iodine | 40 mg | II | I2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 450 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | Methyl 2-(benzyloxy)-4-cyclobutylbenzoate | 9.5 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC(=C1)C1CCC1 | C19H20O3
